US07361686B2
Step A: Preparation of Triphenylethylvalerate Phosphonium Bromide:
In a 100 ml three necked flask equipped with a stir bar, thermocouple and a reflux condenser with a nitrogen inlet was dissolved triphenylphosphine (11.80 g, 45 mmol) in toluene (25 ml), ethyl-5-bromovalerate (12.54 g, 60 mmol) was added to the solution and the reaction mixture was refluxed for 2 hours and then cooled to room temperature. The toluene was decanted away from the oily solid and the residue was slurried in hexane (100 ml). The hexane (3×100 ml) was decanted away three times from the oily residue and oily residue was heated on a Kugelrohr apparatus at 40° C., 0.1 torr for 30 minutes to afford 19.0 g (89.6%) of the title compound.

reactant | triphenylphosphine | 45 mmol, 11.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl-5-bromovalerate | 60 mmol, 12.54 g | C(C)OC(CCCCBr)=O | C7H13BrO2
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | Triphenylethylvalerate Phosphonium Bromide | 19.0 g, 89.6% | [Br-].[PH4+].C1(=CC=CC=C1)C(COC(CCCC)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H26O2.BrH.H3P/c1-2-3-19-24(26)27-20-25(21-13-7-4-8-14-21,22-15-9-5-10-16-22)23-17-11-6-12-18-23;;/h4-18H,2-3,19-20H2,1H3;1H;1H3
